US09328134B2
In a 25 mL round bottom flask, dimethyl (((3aS,4R,6R,7S,7aR)-7-((tert-butyldimethylsilyl)oxy)-2,2-dimethyl-4-(trifluoromethyl)tetrahydro-3aH-[1,3]dioxolo[4,5-c]pyran-6-yl)methyl)phosphonate (70 mg, 0.14 mmol) was taken up in a TFA-H2O mixture (2 mL, 9:1) at 0° C. The reaction mixture was gradually warmed to rt and stirred at rt for 3 h. Upon completion of the reaction (TLC, 50% EtOAc in hexanes, Rf 0.1), the reaction mixture was concentrated under reduced pressure. The residue obtained was washed with n-pentane (10 mL) to give dimethyl (((2R,3S,4R,5S,6R)-3,4,5-trihydroxy-6-(trifluoro methyl)tetrahydro-2H-pyran-2-yl)methyl)phosphonate that was used in next step without purification (40 mg, 88%): 1H NMR (400 MHz, CDCl3) δ 4.54-4.50 (m, 1H), 4.25-4.19 (m, 1H), 4.08-3.97 (m, 2H), 3.77 (d, J=6.0 Hz, 3H), 3.73 (d, J=6.0 Hz, 3H), 3.58-3.54 (m, 1H), 1.58 (s, 3H), 2.44-2.16 (m, 2H); 19F NMR (376.17 MHz, CDCl3) δ −74.36 ppm.

reactant | dimethyl (((3aS,4R,6R,7S,7aR)-7-((tert-butyldimethylsilyl)oxy)-2,2-dimethyl-4-(trifluoromethyl)tetrahydro-3aH-[1,3]dioxolo[4,5-c]pyran-6-yl)methyl)phosphonate | 0.14 mmol, 70 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1[C@H]2[C@@H]([C@@H](O[C@H]1CP(OC)(OC)=O)C(F)(F)F)OC(O2)(C)C | C18H34F3O7PSi
reactant | TFA H2O | 2 mL | C(=O)(C(F)(F)F)O.O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | dimethyl (((2R,3S,4R,5S,6R)-3,4,5-trihydroxy-6-(trifluoro methyl)tetrahydro-2H-pyran-2-yl)methyl)phosphonate | O[C@@H]1[C@@H](O[C@H]([C@H]([C@H]1O)O)C(F)(F)F)CP(OC)(OC)=O | C9H16F3O7P
